US06413964B1
Step E: Preparation of 2-Fluoro-4-[hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-benzonitrile
1-Methylimidazole (15.88 mL, 0.199 mol), dissolved in anhydrous THF (500 mL) in flame-dried glassware under Ar, was cooled to −78° C. and treated with n-butyl lithium (1.6M in hexane)(124 mL, 0.199 mol) via syringe. After stirring for 1 hr chlorotriethylsilane (33.4 mL, 0.199 mol) was added and the reaction mixture was left to warm to ambient temperature overnight. The THF was removed in vacuo with gentle warming, and the residue was redissolved in dry THF (500 mL), cooled to −78° C., and treated with sec-butyl lithium (1.3M in cyclohexane) (153 mL, 0.199 mol) dropwise. After 1 hr this solution was cannulated into a solution of 2-fluoro-4-formylbenzonitrile (27 g, 0.181 mol) in THF (200 mL). After 15 min the cooling bath was removed, the mixture was stirred for 2 hr at ambient temperature, then was quenched with saturated NH4Cl solution. After 15 min 10% HCl was added to pH=3. After 0.5 hr the THF was removed in vacuo, the mixture was made basic with solid Na2CO3 and extracted with EtOAc (3×200 mL). The organics were combined, washed with 10% HCl (3×), the aqueous acidic layers combined, made basic with solid Na2CO3, extracted with EtOAc (3×), the organics combined, washed with brine, and dried (MgSO4). Filtration and concentration to dryness gave the title compound.

reactant | 1-Methylimidazole | 0.199 mol, 15.88 mL | CN1C=NC=C1 | C4H6N2
reactant | n-butyl lithium | 0.199 mol, 1.6M, 124 mL | C(CCC)[Li]
reactant | chlorotriethylsilane | 0.199 mol, 33.4 mL | Cl[Si](CC)(CC)CC | C6H15ClSi
reactant | sec-butyl lithium | 0.199 mol, 1.3M, 153 mL | C(C)(CC)[Li]
reactant | 2-fluoro-4-formylbenzonitrile | 0.181 mol, 27 g | FC1=C(C#N)C=CC(=C1)C=O | C8H4FNO
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-Fluoro-4-[hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-benzonitrile | FC1=C(C#N)C=CC(=C1)C(C=1N(C=NC1)C)O | C12H10FN3O
